US06448242B1
Preparation of 1,4-bis[[4-[(E,E)-5-(3,4,5-trimethylphenyl)-2,4-pentadienoyl]-1-piperazinyl]methyl]benzene dihydrochloride
Concentrated hydrochloric acid (0.050 ml; 0.60 mmol) was added to a solution of 1,4-bis[[4-[(E,E)-5-(3,4,5-trimethylphenyl)-2,4-pentadienoyl]-1-piperazinyl]-methyl]benzene (100 mg; 0.14 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from methanol-diethyl ether to obtain 69 mg (yield: 47%) of the title compound as a colorless crystalline powder.

reactant | hydrochloric acid | 0.60 mmol, 0.050 ml | Cl | ClH
reactant | 1,4-bis[[4-[(E,E)-5-(3,4,5-trimethylphenyl)-2,4-pentadienoyl]-1-piperazinyl]-methyl]benzene | 0.14 mmol, 100 mg | CC=1C=C(C=C(C1C)C)/C=C/C=C/C(=O)N1CCN(CC1)CC1=CC=C(C=C1)CN1CCN(CC1)C(\C=C\C=C\C1=CC(=C(C(=C1)C)C)C)=O | C44H54N4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,4-bis[[4-[(E,E)-5-(3,4,5-trimethylphenyl)-2,4-pentadienoyl]-1-piperazinyl]methyl]benzene dihydrochloride | 69 mg, yield: 47% | Cl.Cl.CC=1C=C(C=C(C1C)C)/C=C/C=C/C(=O)N1CCN(CC1)CC1=CC=C(C=C1)CN1CCN(CC1)C(\C=C\C=C\C1=CC(=C(C(=C1)C)C)C)=O | InChI=1S/C44H54N4O2.2ClH/c1-33-27-41(28-34(2)37(33)5)11-7-9-13-43(49)47-23-19-45(20-24-47)31-39-15-17-40(18-16-39)32-46-21-25-48(26-22-46)44(50)14-10-8-12-42-29-35(3)38(6)36(4)30-42;;/h7-18,27-30H,19-26,31-32H2,1-6H3;2*1H/b11-7+,12-8+,13-9+,14-10+;;
